US09290481B2
A mixture of 7-Bromo-5-fluoro-3-methyl-indole (2.5 g), Cu (0.77 g), CuBr (1.57 g) and NH3 (30 mL of a 33% aqueous solution) was heated in an autoclave for 2 h at 170° C. The mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried and the solvent removed to give 3-methyl-5-fluoro-7-amino-indole (1.84 g) as an oil which was used without further purification. UPLC/MS found for C9H9FN2 as (M+H)+ 165.2

reactant | 7-Bromo-5-fluoro-3-methyl-indole | 2.5 g | BrC=1C=C(C=C2C(=CNC12)C)F | C9H7BrFN
reactant | NH3 | N | H3N
solvent | water | O | H2O
product | 3-methyl-5-fluoro-7-amino-indole | 1.84 g | CC1=CNC2=C(C=C(C=C12)F)N | C9H9FN2
